US07285563B2
N-(4-Methylisoquinolin-5-yl)-N′-[4-(trifluoromethyl)benzyl]urea
Prepared fiom 4-methylisoquinolin-5-amine (Description 91) and [4-(trifluoromethyl)benzyl]isocyanate (Description 58) according to Description 61. m/z (ES+) 360 (M+H)+.

reactant | 4-methylisoquinolin-5-amine | CC1=CN=CC=2C=CC=C(C12)N | C10H10N2
reactant | [4-(trifluoromethyl)benzyl]isocyanate | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
product | N-(4-Methylisoquinolin-5-yl)-N′-[4-(trifluoromethyl)benzyl]urea | CC1=CN=CC2=CC=CC(=C12)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F | C19H16F3N3O
